US06114325
[2-[[N-(Dimethylamino)carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride (Compound 19)
4N Hydrochloric acid--ethyl acetate solution (0.11 ml) was added to a solution of [2-[[N-(dimethylamino)carbamoyloxy]methyl]phenyl]-N-octadecylformamide (0.200 g) in ethyl acetate (6 ml) while being cooled with ice. After being stirred for 30 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate-ethanol mixed solvent, thereby yielding 0.195 g of the aimed compound as white crystals.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | [2-[[N-(dimethylamino)carbamoyloxy]methyl]phenyl]-N-octadecylformamide | 0.200 g | CN(NC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)C | C29H51N3O3
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.11 ml | C(C)(=O)OCC | C4H8O2
product | [2-[[N-(Dimethylamino)carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride | 0.195 g | Cl.CN(NC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)C | InChI=1S/C29H51N3O3.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-21-24-32(26-33)28-23-20-19-22-27(28)25-35-29(34)30-31(2)3;/h19-20,22-23,26H,4-18,21,24-25H2,1-3H3,(H,30,34);1H
